US09085583B2
Step 8: 4-(1-methoxypropan-2-yl)-5-methyl-4H-pyrrolo[2,3-d]thiazole-6-carboxylic acid
To a solution of 4-(1-methoxypropan-2-yl)-5-methyl-4H-pyrrolo[2,3-d]thiazole-6-carbonitrile (1.0 g, 4.25 mmol) in tetrahydrofuran/methanol=1:1 (30 mL) was added sodium hydroxide (680 mg, 17 mmol) resolved in 15 mL water. The resulting reaction system was heated to 80° C. and allowed to stir for 24 hours at 80° C. The pH was adjusted to around 7 by progressively adding 4N hydrogen chloride below 0° C., solvent and water was removed in reduced pressure to give the title compound (500 mg, 46%) as an yellow solid. LCMS (M+H+) m/z: calc'd. 254.07. found 254.7.

reactant | 4-(1-methoxypropan-2-yl)-5-methyl-4H-pyrrolo[2,3-d]thiazole-6-carbonitrile | 4.25 mmol, 1.0 g | COCC(C)N1C(=C(C2=C1N=CS2)C#N)C | C11H13N3OS
reactant | sodium hydroxide | 17 mmol, 680 mg | [OH-].[Na+]
reactant | hydrogen chloride | 4N | Cl | ClH
reactant | tetrahydrofuran methanol | O1CCCC1.CO
solvent | water | 15 mL | O | H2O
product | 4-(1-methoxypropan-2-yl)-5-methyl-4H-pyrrolo[2,3-d]thiazole-6-carboxylic acid | 500 mg, 46% | COCC(C)N1C(=C(C2=C1N=CS2)C(=O)O)C | C11H14N2O3S
